US05624942
(1) Synthesis of an intermediate, 2-chloro-4-methylmercapto-6-(3-thienylmethyloxy)pyridine
To a solution containing 3-thiophenemethanol (0.56 g, 0.0041×1.2 mol) and sodium hydride (0.17 g, (ca.60% in mineral oil), 0.0041×1.05 mol) in tetrahydrofuran, 2,6- dichloro-4-methylmercaptopyridine (0.80 g, 0. 0041 mol) was added, and the resultant solution was refluxed for about 2 hours.

reactant | 3-thiophenemethanol | 1.2 mol, 0.56 g | S1C=C(C=C1)CO | C5H6OS
reactant | sodium hydride | 1.05 mol, 0.17 g | [H-].[Na+]
reactant | 2,6- dichloro-4-methylmercaptopyridine | 0.80 g | ClC1=NC(=CC(=C1)SC)Cl | C6H5Cl2NS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-methylmercapto-6-(3-thienylmethyloxy)pyridine | ClC1=NC(=CC(=C1)SC)OCC1=CSC=C1 | C11H10ClNOS2
